Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.478257708840001
[C:1]=[C:2]1[O:3][C:4]1([H:5])[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6],0.96061402343
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:4][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:3],4.4409616257
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],4.3128307355
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9],2.96226302086
[O:1]=[C:2]=[C:3]([H:4])[C:5]=[C:6]([H:7])[H:8]>>[C:3]([H:4])#[C:5][C:6]([H:7])[H:8].[O:1]=[C:2],0.5065148313210001
[H:1][C:2]1[O:3][C:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:5](=[C:4]([O:3]/[C:2]=[C:11](/[C:7]([H:8])([H:9])[H:10])[H:12])[H:13])[H:6],-0.30629722002
[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[o:9][c:10]1[H:11]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11],3.21983298212
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.23969493657
[H:1][C:2].[O:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.40311566536
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],1.7078193064899998
[H:1][C:2]=[C:3]([H:4])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.55415653795
[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.68689906
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:10][C:11]([H:12])[H:13].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.44007863367
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],5.31752834557
[H:13].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.52836020708
[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.90502348409
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-6.77603624072
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],0.58485110142
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8][H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]#[C:8][H:9].[H:7],2.51964321938
[H:1][C:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])#[C:8][H:9].[H:1][C:2][O:3][C:4]([H:5])[C:10]([H:11])([H:12])[H:13],1.30401413029
[H:1][C:2]([H:3])[O:11][C:6](=[C:5]=[O:4])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]1([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[O:11]1,0.0702215179698999
[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.90670118602
[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],1.99291442957
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8].[H:9],0.965176369647
[H:1][O:2][C:3]#[C:4][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:5][H:6]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.23489100277
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-2.5884343481
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:9][H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-2.11331840432
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:6])=[C:10]([H:11])[H:12].[H:1][C:2][C:3]#[C:5][C:7]([H:8])([H:9])[H:13],5.33578871075
